US05068248
To a solution of methyl 5-fluorosalicylate (3.93 g, 23.1 mmol) in dry N,N-dimethylformamide (30 ml) was added sodium hydride (1.1 g, 50% oil dispersion). After hydrogen gas evolution had ceased, the mixture was cooled in an ice-bath, and dimethylthiocarbamoyl chloride (3.71 g, 30.0 mmol) was added. The mixture was stirred at 80° C. for one hour, cooled, and poured into water (100 ml). The product was extracted with diethyl ether (2×), and the combined organic extracts were washed with water, 5% aqueous potassium hydroxide, water, dried (sodium sulfate), and evaporated. The solid obtained was recrystallized from diethyl ether-hexane to afford 3.16 g (53%) of O-2-carbomethoxy-4-fluorophenyl dimethylthiocarbamate. The 90 MHz NMR spectrum in chloroform-d was in accord with the desired structure.

reactant | methyl 5-fluorosalicylate | 23.1 mmol, 3.93 g | FC1=CC=C(C(C(=O)OC)=C1)O | C8H7FO3
reactant | sodium hydride | 1.1 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | dimethylthiocarbamoyl chloride | 30.0 mmol, 3.71 g | CN(C(=S)Cl)C | C3H6ClNS
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | O-2-carbomethoxy-4-fluorophenyl dimethylthiocarbamate | 3.16 g, 53% | CN(C(OC1=C(C=C(C=C1)F)C(=O)OC)=S)C | C11H12FNO3S
